US06313122B1
A. 3-Benzyloxy-4-methylnitrobenzene
To a stirred suspension of 2-methyl-5-nitrophenol (2.0 g, 13 mmol) and sodium carbonate (1.94 g, 18.3 mmol) in acetone was added benzyl bromide (1.7 mL, 14 mmol). The mixture was heated to reflux for 24 h, cooled, filtered, and the solid washed with acetone. The filtrate and acetone washings were combined and concentrated in vacuo. Recrystallization from ether/hexanes gave 1.06 g (33%) of the title product as an off-white solid. MS-FD 243 m/e (M+).

reactant | 2-methyl-5-nitrophenol | 13 mmol, 2.0 g | CC1=C(C=C(C=C1)[N+](=O)[O-])O | C7H7NO3
reactant | sodium carbonate | 18.3 mmol, 1.94 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | benzyl bromide | 14 mmol, 1.7 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetone | CC(=O)C | C3H6O
product | 3-Benzyloxy-4-methylnitrobenzene | 1.06 g, 33% | C(C1=CC=CC=C1)OC=1C=C(C=CC1C)[N+](=O)[O-] | C14H13NO3
